US09315467B2
Part A. A solution of 4-bromopyridine (1.0 g, 5.2 mmol) in acetonitrile-water (10 mL/5 mL) is treated with 3-carboethoxybenzeneboronic acid (0.93 g, 5.2 mmol), sodium carbonate (2.2 g, 21 mmol) and catalytic tetrakis(triphenylphosphine)palladium. The solution is heated to reflux for 12 h., then cooled and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, filtered and evaporated. The residual material is separated by flash chromatography to afford ethyl 3-pyridin-4-yl-benzoate (1.0 g, 86%).

reactant | 4-bromopyridine | 5.2 mmol, 1.0 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | 3-carboethoxybenzeneboronic acid | 5.2 mmol, 0.93 g | C(=O)(OCC)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | sodium carbonate | 21 mmol, 2.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile water | 10 mL | C(C)#N.O
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-pyridin-4-yl-benzoate | 1.0 g, 86% | N1=CC=C(C=C1)C=1C=C(C(=O)OCC)C=CC1 | C14H13NO2
